US05112998
The procedure of Example 12 was repeated except that 45.0 mg (0.1 mmole) of 1α,2α-epoxy-7α-hydroxy-21,21-dimethoxy-20-methylpregn-5-en-3β-yl acetate was used in lieu of 49.0 mg of 20-(5,5-dimethyl-1,3-dioxan2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate to give 39.0 mg of 1α,2α-epoxy-21,21-dimethoxy-7α-methoxycarbonyloxy-20-methylpregn-5-en-3β-yl acetate (yield: 77%).

reactant | 1α,2α-epoxy-7α-hydroxy-21,21-dimethoxy-20-methylpregn-5-en-3β-yl acetate | 0.1 mmole, 45.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C26H40O6
reactant | 20-(5,5-dimethyl-1,3-dioxan2-yl)-1α,2α-epoxy-7α-hydroxypregn-5-en-3β-yl acetate | 49.0 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
product | 1α,2α-epoxy-21,21-dimethoxy-7α-methoxycarbonyloxy-20-methylpregn-5-en-3β-yl acetate | 39.0 mg, yield: 77% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C28H42O8
